US08431695B2
Step 2: Preparation of tert-butyl 4-[(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)methyl]piperazine-1-carboxylate
To a cooled (0° C.) solution of 7-(piperazin-1-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (0.85 g, 3.66 mmol) and triethylamine (0.56 mL, 4.03 mmol) in THF (8.5 mL)/DCM (8.5 mL) was added iii-tert-butyl dicarbonate (0.88 g, 4.03 mmol) and the mixture was allowed to warm to rt and further stirred for 18 h and concentrated. The residue was taken up in ethyl acetate, washed with water and dried over Na2SO4 and concentrated (used in the next step without further purification). LC-MS [M+H]+=332.8, RT=1.17 min

reactant | 7-(piperazin-1-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 3.66 mmol, 0.85 g | N1(CCNCC1)CC1=CC=C2C(=NC=NN21)N | C11H16N6
reactant | triethylamine | 4.03 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | DCM | 8.5 mL | C(Cl)Cl | CH2Cl2
reactant | tert-butyl dicarbonate | 4.03 mmol, 0.88 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-[(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)methyl]piperazine-1-carboxylate | NC1=NC=NN2C1=CC=C2CN2CCN(CC2)C(=O)OC(C)(C)C | C16H24N6O2
